US08304557B2
N-(5-hydroxy-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of 3-amino-4-methylphenol (3.71 g, 30.1 mmol) and triethylamine (4.38 mL, 31.6 mmol) in tetrahydrofuran (30 mL) was added dropwise with stirring under ice-cooling a solution of 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (5.02 g, 31.6 mmol) in tetrahydrofuran (10 mL), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate-hexane to give the title compound (4.67 g, 63%) as a white solid.

reactant | 3-amino-4-methylphenol | 30.1 mmol, 3.71 g | NC=1C=C(C=CC1C)O | C7H9NO
reactant | triethylamine | 31.6 mmol, 4.38 mL | C(C)N(CC)CC | C6H15N
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 31.6 mmol, 5.02 g | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-(5-hydroxy-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 4.67 g, 63% | OC=1C=CC(=C(C1)NC(=O)C1=CC(=NN1C)C)C | C13H15N3O2
